US06982348B2
In a three neck flask purged with nitrogen were charged magnesium (12.2 g, 502 mmol) and ether (100 ml). A solution of 4-bromotoluene (56.1 ml, 456 mmol) in ether (200 ml) was added dropwise, and the mixture was heated under reflux for 1.5 hrs. The reaction vessel was cooled in a dry ice-acetone bath. A solution of pentafluoropropionic acid (25 g, 152 mmol) in ether (100 ml) was added dropwise, and the temperature was slowly raised to room temperature. The mixture was heated under reflux for 3 hrs, and stirred overnight at room temperature. The reaction mixture was ice-cooled, and quenched with 3N hydrochloric acid. The mixture was diluted with ethyl acetate, and the organic layer was separated and washed with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:0, 30:1) to give a colorless transparent oil. This was dissolved in methanol, and sodium borohydride was added under ice-cooling. The temperature was raised to, room temperature, and the mixture was stirred for 1 hr. After completion of the reaction, the reaction was quenched with 6N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1, 5:1) to give 2,2,3,3,3-pentafluoro-1-(4-methylphenyl)propan-1-ol (20.28 g, 56%) as a colorless transparent oil.

reactant | magnesium | 502 mmol, 12.2 g | [Mg] | Mg
reactant | 4-bromotoluene | 456 mmol, 56.1 ml | BrC1=CC=C(C=C1)C | C7H7Br
reactant | pentafluoropropionic acid | 152 mmol, 25 g | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | methanol | CO | CH4O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2,2,3,3,3-pentafluoro-1-(4-methylphenyl)propan-1-ol | 20.28 g, 56% | FC(C(O)C1=CC=C(C=C1)C)(C(F)(F)F)F | C10H9F5O
